US06872833B2
(+)-Morpholine-4-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide
From (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester with morpholine and pyridine in chloroform. [α]D20=+43.1° (c=1.05, CHCl3), ES-MS m/e (%): 380 (M+H+, 100).

reactant | (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2OCCOC2)OC)=O | C19H18N2O5S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-Morpholine-4-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCOCC2)OC | C17H21N3O5S
